US08466282B2
1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-5-phenyl-1H-pyrrole-2-carboxamide hydrochloride
tert-Butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-5-phenyl-1H-pyrrol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (150 mg) was dissolved in ethyl acetate (5 ml), 4N hydrogen chloride-ethyl acetate (5 ml) was added and the mixture was stirred for 1 hr. The solvent was evaporated under reduced pressure to give the object product (110 mg).

reactant | tert-Butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-5-phenyl-1H-pyrrol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 150 mg | COCCCCN1C(=CC=C1C1=CC=CC=C1)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C35H52N4O6
reactant | hydrogen chloride-ethyl acetate | 4N, 5 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-5-phenyl-1H-pyrrole-2-carboxamide hydrochloride | 110 mg | Cl.COCCCCN1C(=CC=C1C1=CC=CC=C1)C(=O)N([C@@H]1CNC[C@@H](C1)C(=O)N1CCOCC1)CC(C)C | InChI=1S/C30H44N4O4.ClH/c1-23(2)22-34(26-19-25(20-31-21-26)29(35)32-14-17-38-18-15-32)30(36)28-12-11-27(24-9-5-4-6-10-24)33(28)13-7-8-16-37-3;/h4-6,9-12,23,25-26,31H,7-8,13-22H2,1-3H3;1H/t25-,26+;/m1./s1
